US04933357
To a suspension of potassium carbonate (8.14 g) and 1,2,4-triazole (8.14 g) in acetonitrile (100 ml) was added 1-(4-chlorophenyl)-2,3-epoxypropane (9.0 g), and the resulting suspension was heated to 70° for 4.5 h. The excess acetonitrile was evaporated under reduced pressure, and the residue was partitioned between ethyl acetate and water. The organic layer was separated, washed with water and dried, and the solvent was evaporated to give a colourless oil. Purification by column chromatography on silica, eluting with chloroform/methanol, 95:5 by volume, gave 1-(4-chlorophenyl)-3-(1,2,4-triazol-1-yl)-2-propanol as a colourless oil which crystallised on standing, m.p. 104°-6°.

reactant | potassium carbonate | 8.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2,4-triazole | 8.14 g | N1N=CN=C1 | C2H3N3
reactant | 1-(4-chlorophenyl)-2,3-epoxypropane | 9.0 g | ClC1=CC=C(C=C1)CC1CO1 | C9H9ClO
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-(4-chlorophenyl)-3-(1,2,4-triazol-1-yl)-2-propanol | ClC1=CC=C(C=C1)CC(CN1N=CN=C1)O | C11H12ClN3O
